US08871796B2
1,4-difluoro-2-nitrobenzene (0.63 mL, 5.9 mmol, 2.5 equiv) was added to a mixture of 3-(2-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile (500 mg, 2.3 mmol, 1 equiv) and potassium carbonate (970 mg, 7.0 mmol, 3.0 equiv) in dimethyl sulfoxide (5.9 mL). The reaction mixture was heated to 80° C. for 20 minutes, then cooled to 22° C. The crude reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography on silica gel (hexanes, grading to 50% ethyl acetate-hexanes) to afford 3-[1-ethyl-3-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-5-yl]benzonitrile as light-yellow solid (328 mg, 40%). Calcd (M+1)+: 353.1. Found: 353.0.

reactant | 1,4-difluoro-2-nitrobenzene | 5.9 mmol, 0.63 mL, 2.5 equiv | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3-(2-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile | 2.3 mmol, 500 mg, 1 equiv | C(C)N1NC(C=C1C=1C=C(C#N)C=CC1)=O | C12H11N3O
reactant | potassium carbonate | 7.0 mmol, 970 mg, 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 5.9 mL | CS(=O)C | C2H6OS
product | 3-[1-ethyl-3-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-5-yl]benzonitrile | 328 mg, 40% | C(C)N1N=C(C=C1C=1C=C(C#N)C=CC1)OC1=C(C=C(C=C1)F)[N+](=O)[O-] | C18H13FN4O3
